US07544812B2
2-(4-{2-[1-(4-Methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-3-propyl-phenoxy)-2-methyl-propionic acid ethyl ester
The titled compound is prepared, according to the procedure of Example 1, Step A, using toluene-4-sulfonic acid 2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethyl ester (0.200 g, 0.478 mmole) and 2-(4-hydroxy-3-propyl-phenoxy)-2-methyl-propionic acid ethyl ester (0.140 g, 0.526 mmole) to produce a colorless oil (0.122 g, 50%). Mass [EI+] 513 (M+H)+.

reactant | toluene-4-sulfonic acid 2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethyl ester | 0.478 mmole, 0.200 g | COC1=CC=C(CN2C(N(C(C2)CCOS(=O)(=O)C2=CC=C(C=C2)C)C)=O)C=C1 | C21H26N2O5S
reactant | 2-(4-hydroxy-3-propyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.526 mmole, 0.140 g | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)O)CCC)=O | C15H22O4
product | 2-(4-{2-[1-(4-Methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-3-propyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)OC)=O)C)CCC)=O | C29H40N2O6
